US07157487B2
(Step 4) Synthesis of 3-fluoro-5-methoxy-4-nitrophenylacetic acid
Acetic acid (7 ml) and concentrated hydrochloric acid (7 ml) were added to di-tert-butyl 3-fluoro-5-methoxy-4-nitrophenylmalonate (4.88 g, 12.7 mmol). The mixture was heated under reflux for 15 hours under stirring. After cooling, the reaction mixture was distilled under reduced pressure to remove the solvent. To the residue were added 1N NaOH (200 ml) and ether (200 ml) to separate it into layers. The water layer thus obtained was acidified with 1N HCl, followed by extraction with ether (200 ml). The extract was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent, whereby the title compound (2.83 g, 97%) was obtained as a pale brown solid.

reactant | hydrochloric acid | 7 ml | Cl | ClH
reactant | di-tert-butyl 3-fluoro-5-methoxy-4-nitrophenylmalonate | 12.7 mmol, 4.88 g | FC=1C=C(C=C(C1[N+](=O)[O-])OC)C(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C18H24FNO7
reactant | HCl | 1N | Cl | ClH
solvent | Acetic acid | 7 ml | C(C)(=O)O | C2H4O2
product | 3-fluoro-5-methoxy-4-nitrophenylacetic acid | FC=1C=C(C=C(C1[N+](=O)[O-])OC)CC(=O)O | C9H8FNO5
